US03932545
To the suspension was added 0.2 mole of di(2-methoxyethoxy)-calcium. On stirring the mixture, the phenyl-sodium reacted and went into solution. On carbonation, followed by treatment with dilute sulfuric acid, the mixture gave 14.6 grams of benzoic acid (a 60% yield, based on the amount of chlorobenzene used), illustrating that the sodium-containing, organometallic product had the same reactivity toward carbon dioxide as does phenyl-sodium.

reactant | di(2-methoxyethoxy)-calcium | 0.2 mole | COCCO[Ca]OCCOC
reactant | phenyl-sodium | C1(=CC=CC=C1)[Na]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | benzoic acid | 14.6 grams, 60% yield | C(C1=CC=CC=C1)(=O)O | C7H6O2
